US09278950B2
Step 2. Methyl {(3R,4S,5S)-3-amino-1-[3-({[3-amino-7-(tetrahydro-2H-pyran-4-yl)quinolin-2-yl]carbonyl}amino)pyridin-4-yl]-5-methylpiperidin-4-yl}carbamate
To a solution of tert-butyl methyl {(3R,4S,5S)-1-[3-({[3-{[(benzyloxy)carbonyl]amino}-7-(3,6-dihydro-2H-pyran-4-yl)quinolin-2-yl]carbonyl}amino)pyridin-4-yl]-5-methylpiperidine-3,4-diyl}biscarbamate (63 mg, 0.082 mmol) in MeOH (2.0 mL) and THF (1.0 mL), 10% Pd on carbon (16 mg) was added. The reaction mixture was deoxygenated under reduced pressure and hydrogen was introduced via a balloon. The reaction mixture was stirred at room temperature under hydrogen for 20 h. The mixture was filtered and the filtrate concentrated under reduced pressure. The resulting residue was dissolved in DCM (2 mL), and TFA (2 mL) was added. The mixture was stirred at room temperature for 30 min. then concentrated under reduced pressure. The residue was purified by preparative LCMS (pH=10 method; XBridge™ preparative C18 5 μm OBD™ column, 30×10 mm, 60 mL/min., eluting with a gradient of MeCN and water with 0.1% NH4OH) to give the title compound as a yellow powder (26 mg, 58%). LCMS calc. for C28H36N7O4 (M+H)+: m/z=534.3. Found: 534.4.

reactant | tert-butyl methyl {(3R,4S,5S)-1-[3-({[3-{[(benzyloxy)carbonyl]amino}-7-(3,6-dihydro-2H-pyran-4-yl)quinolin-2-yl]carbonyl}amino)pyridin-4-yl]-5-methylpiperidine-3,4-diyl}biscarbamate | 0.082 mmol, 63 mg | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=CC=C2C1)C=1CCOCC1)C(=O)NC=1C=NC=CC1N1C[C@H]([C@H]([C@H](C1)C)NC(OC)=O)NC(OC(C)(C)C)=O | C41H47N7O8
solvent | MeOH | 2.0 mL | CO | CH4O
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
catalyst | Pd on carbon | 16 mg | [Pd] | Pd
product | Methyl {(3R,4S,5S)-3-amino-1-[3-({[3-amino-7-(tetrahydro-2H-pyran-4-yl)quinolin-2-yl]carbonyl}amino)pyridin-4-yl]-5-methylpiperidin-4-yl}carbamate | 26 mg, 58% | N[C@@H]1CN(C[C@@H]([C@@H]1NC(OC)=O)C)C1=C(C=NC=C1)NC(=O)C1=NC2=CC(=CC=C2C=C1N)C1CCOCC1 | C28H35N7O4
